US07485658B2
A solution of 4-(3-fluorophenylamino)-3-nitrobenzoic acid (5.57 g, 20.1 mmol) in THF (100 mL) was charged with 10% Pd/C (500 mg) and the reaction flask evacuated and subsequently charged with H2(g) three times. The mixture was stirred vigorously for 12 h after which it was filtered through diatomaceous earth and the filtrate concentrated in vacuo to give 3-amino-4-(3-fluorophenylamino)benzoic acid as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ 7.63 (s, 1H), 7.34 (d, J=2.0 Hz, 1H), 7.19-7.13 (m, 2H), 7.08 (d, J=8.4 Hz, 1H), 6.70 (d, J=8.0 Hz, 1H), 6.60 (d, J=11.6 Hz, 1H), 6.54 (t, J=8.4 Hz, 1H), 5.02 (b, 1H); MS (ES+): m/z 247 [MH+].

reactant | 4-(3-fluorophenylamino)-3-nitrobenzoic acid | 20.1 mmol, 5.57 g | FC=1C=C(C=CC1)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C13H9FN2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 3-amino-4-(3-fluorophenylamino)benzoic acid | NC=1C=C(C(=O)O)C=CC1NC1=CC(=CC=C1)F | C13H11FN2O2
